US05231177
500 g of N-acetylneuraminate was dissolved in 5,000 ml of water, 5 g of active carbon was added thereto and 1617 ml of a 1N sodium hydroxide solution was added to the solution in a nitrogen gas stream to adjust pH to 7.8. The reaction solution was filtered through a 0.2 μm filter and the filtrate was lyophilized to give 535 g (constant amount) of sodium N-acetylneuraminate as colorless powder.

reactant | N-acetylneuraminate | 500 g | C(C)(=O)N[C@@H]1[C@H](CC(C([O-])=O)(O)O[C@H]1[C@H](O)[C@H](O)CO)O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 5,000 ml | O | H2O
product | sodium N-acetylneuraminate | 535 g | C(C)(=O)N[C@@H]1[C@H](CC(C([O-])=O)(O)O[C@H]1[C@H](O)[C@H](O)CO)O.[Na+] | InChI=1S/C11H19NO9.Na/c1-4(14)12-7-5(15)2-11(20,10(18)19)21-9(7)8(17)6(16)3-13;/h5-9,13,15-17,20H,2-3H2,1H3,(H,12,14)(H,18,19);/q;+1/p-1/t5-,6+,7+,8+,9+,11?;/m0./s1
